US07550629B2
To a solution of 3,3,3-trifluoro-2-(trifluoromethyl)-1-(hydroxymethyl)propyl amine (79 mg, 0.374 mmol) in CH2Cl2 (1 mL) was added triethylamine (0.1 mL, 0.749 mmol) and 4-fluorobenzenesulfonyl chloride (80.5 mg, 0.4 mmol) in CH2Cl2 (1 mL). The solution was stirred for 20 hours at 25° C. and then concentrated. EtOAc (5 mL) was added and the solution was washed with 1M HCl (1 mL), brine (1 mL), dried over Na2SO4 and concentrated. The crude solid was purified by Biotage Flash™ chromatography, eluting with EtOAc/hexanes (1:4), to give 4-fluoro-N-[3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoromethyl)propyl]benzene sulfonamide (2.5 mg) as a white solid.

reactant | 3,3,3-trifluoro-2-(trifluoromethyl)-1-(hydroxymethyl)propyl amine | 0.374 mmol, 79 mg | FC(C(C(CO)N)C(F)(F)F)(F)F | C5H7F6NO
reactant | triethylamine | 0.749 mmol, 0.1 mL | C(C)N(CC)CC | C6H15N
reactant | 4-fluorobenzenesulfonyl chloride | 0.4 mmol, 80.5 mg | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 4-fluoro-N-[3,3,3-trifluoro-1-(hydroxymethyl)-2-(trifluoromethyl)propyl]benzene sulfonamide | 2.5 mg | FC1=CC=C(C=C1)S(=O)(=O)NC(C(C(F)(F)F)C(F)(F)F)CO | C11H10F7NO3S
